US04579947
1-{3-[4-(4-Chlorobenzyl)piperazin-1-yl]propyl}-3-(2,6-dichlorophenyl)urea dihydrochloride
The procedure described in Example 29 was followed, using 2,6-dichlorophenyl isocyanate (1.88 g; 10 mmole), 1-(3-aminopropyl)-4-(4-chlorobenzyl)piperazine trihydrochloride (3.77 g; 10 mmole), methylene chloride (50 ml) and triethylamine (4.3 ml; 31 mmole). Recrystallization from methanol provided the title compound (2.75 g; 52% yield) as colorless crystals, m.p. 246°-248° C.

reactant | 2,6-dichlorophenyl isocyanate | 10 mmole, 1.88 g | ClC1=C(C(=CC=C1)Cl)N=C=O | C7H3Cl2NO
reactant | 1-(3-aminopropyl)-4-(4-chlorobenzyl)piperazine trihydrochloride | 10 mmole, 3.77 g | Cl.Cl.Cl.NCCCN1CCN(CC1)CC1=CC=C(C=C1)Cl
reactant | triethylamine | 31 mmole, 4.3 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 1-{3-[4-(4-Chlorobenzyl)piperazin-1-yl]propyl}-3-(2,6-dichlorophenyl)urea dihydrochloride | 2.75 g, 52% yield | Cl.Cl.ClC1=CC=C(CN2CCN(CC2)CCCNC(=O)NC2=C(C=CC=C2Cl)Cl)C=C1 | InChI=1S/C21H25Cl3N4O.2ClH/c22-17-7-5-16(6-8-17)15-28-13-11-27(12-14-28)10-2-9-25-21(29)26-20-18(23)3-1-4-19(20)24;;/h1,3-8H,2,9-15H2,(H2,25,26,29);2*1H
